US06451816B1
4-{1-[bis(2-chlorophenyl)-methyl]-piperidin-4-yl}-butylamine
8.0 g (20.6 mmol) 4-{1-[bis(2-chlorophenyl)-methyl]-piperidin-4-yl}-butyronitrile are dissolved in 240 ml dioxane/ethanol (1/5) and added to 1.5 g Raney-nickel. The mixture is stirred at RT under hydrogen atmosphere until uptake of the theoretical amount of hydrogen. The reaction solution is filtered from the catalyst and the solvent is removed under vacuum. The residue is dispersed between 100 ml 10% sodium hydroxide solution and 300 ml acetic acid ethyl ester. The organic phase is dried with sodium sulfate and the solvent is removed under vacuum. The resin is processed further without additional purification.

reactant | 4-{1-[bis(2-chlorophenyl)-methyl]-piperidin-4-yl}-butyronitrile | 20.6 mmol, 8.0 g | ClC1=C(C=CC=C1)C(N1CCC(CC1)CCCC#N)C1=C(C=CC=C1)Cl | C22H24Cl2N2
reactant | hydrogen | [H][H] | H2
solvent | dioxane ethanol | 240 ml | O1CCOCC1.C(C)O
catalyst | Raney-nickel | 1.5 g | [Ni] | Ni
product | 4-{1-[bis(2-chlorophenyl)-methyl]-piperidin-4-yl}-butylamine | ClC1=C(C=CC=C1)C(N1CCC(CC1)CCCCN)C1=C(C=CC=C1)Cl | C22H28Cl2N2
